US07470807B2
Synthesis of N-[2-(t-butyldiphenylsilyloxy)ethyl]aniline (Intermediate 46)
A solution of 2-anilinoethanol (5.82 g, TCI) in anhydrous DMF (50 ml) was added with imidazole (3.23 g, TCI), added dropwise with a solution of t-butyldiphenylsilyl chloride (12.48 g, TCI) in DMF (50 ml) under ice cooling, stirred for 30 minutes, then warmed to room temperature, and further stirred for 3.5 hours. The reaction mixture was added with water (100 ml), and extracted with ethyl acetate (100 ml). The organic layer was washed successively with water and saturated brine, and dried, and then the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography (hexane:ethyl acetate=9:1) to obtain the title compound (Intermediate 46, 15.61 g).

reactant | 2-anilinoethanol | 5.82 g | N(C1=CC=CC=C1)CCO | C8H11NO
reactant | imidazole | 3.23 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylsilyl chloride | 12.48 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | water | 100 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-[2-(t-butyldiphenylsilyloxy)ethyl]aniline | 15.61 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCNC1=CC=CC=C1 | C24H29NOSi
